US08431563B2
A solution of LAH (1.87 g, 49.3 mmol) in THF (50 mL) was chilled to 0° C. To this mixture was added (3S)-3-((benzyloxy)methyl)-2,5-piperazinedione (3.85 g, 16.44 mmol) slowly portion wise. The mixture was allowed to warm to room temperature and then heated at reflux for 1 h. Afterwards, the mixture was chilled to 0° C. and the reaction was quenched with an excess of solid sodium sulfate decahydrate (approximately 50 g). After stirring at room temperature for 1 h, the mixture was filtered. The filtrate was concentrated to give (R)-2-(benzyloxymethyl)piperazine (2.60 g) as a yellow oil. To this was added excess HCl (4M in dioxane) to deliver (2R)-2-((benzyloxy)methyl)piperazine dihydrochloride.

reactant | LAH | 49.3 mmol, 1.87 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (3S)-3-((benzyloxy)methyl)-2,5-piperazinedione | 16.44 mmol, 3.85 g | C(C1=CC=CC=C1)OC[C@H]1C(NCC(N1)=O)=O | C12H14N2O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-2-(benzyloxymethyl)piperazine | 2.60 g | C(C1=CC=CC=C1)OC[C@@H]1NCCNC1 | C12H18N2O
